US08461372B2
To a mixture of L-Lysine-Hydrochloride (100 g) in 1.75 L of methanol at 0° C. was bubbled dry HCl for 7 hours. The crude solid product was filtered, dried to get pure L-Lysine methyl ester dihydrochloride (117 g, 91.6%) as a white powder with a melting point of 204.5-206° C. The compound was characterized by 1H NMR (DMSO-d6) δ 1.48 (m, 2H, CH2), 1.68 (m, 2H, CH2), 1.90 (m, 2H, CH2), 2.80 (m, 2H, CH2), 3.78 (s, 3H, Ester), 4.00 (t, 1H, CH), 8.20 (bs, 2H, NH2), 8.70 (bs, 2H, NH2).

reactant | L-Lysine-Hydrochloride | 100 g | Cl.N[C@@H](CCCCN)C(=O)O
reactant | methanol | 1.75 L | CO | CH4O
product | L-Lysine methyl ester dihydrochloride | 117 g, 91.6% | Cl.Cl.COC([C@@H](N)CCCCN)=O | InChI=1S/C7H16N2O2.2ClH/c1-11-7(10)6(9)4-2-3-5-8;;/h6H,2-5,8-9H2,1H3;2*1H/t6-;;/m0../s1
